US07348359B2
A solution of 2,3-thiophenedicarboxaldehyde (600 mg, 4.28 mmol) in dichloromethane (50 ml) was cooled to 0° C. under an atmosphere of nitrogen. (1-Acetylamino-2-oxo-propyl)-phosphonic acid dimethyl ester (1.05 g, 4.70 mmol) was added [literature procedure: Kitamura, et al. Tet. Lett., 36(32), 1995, pp. 5769-5772], followed by DBU (0.471 ml, 4.70 mmol), and the mixture allowed to warm to ambient temperature overnight, then concentrated in vacuo, and the residue was then purified by flash chromatography (0-50% ethyl acetate in hexanes) to provide 1-thieno[2,3-c]pyridin-5-yl-ethanone as a white solid (326 mg, 43%). 1HNMR (250 MHz, CDCl3): δ 9.20 (s, 1H), 8.50 (d, 1H, J=1.02), 7.80 (d, 1H, J=5.36), 7.51 (d, 1H, J=5.36), 2.81 (s, 3H).

reactant | 2,3-thiophenedicarboxaldehyde | 4.28 mmol, 600 mg | S1C(=C(C=C1)C=O)C=O | C6H4O2S
reactant | (1-Acetylamino-2-oxo-propyl)-phosphonic acid dimethyl ester | 4.70 mmol, 1.05 g | COP(OC)(=O)C(C(C)=O)NC(C)=O | C7H14NO5P
reactant | DBU | 4.70 mmol, 0.471 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-thieno[2,3-c]pyridin-5-yl-ethanone | 326 mg, 43% | S1C=CC=2C1=CN=C(C2)C(C)=O | C9H7NOS
